US08134001B2
In a manner similar to the method described in example 1d, 5-chloro-2-(4-nitro-phenoxy)-benzaldehyde (2.23 g, 8 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (1.67 mL, 8 mmol), n-butyllithium (2.5 M, 3.2 mL, 8 mmol), trimethylsilyl chloride (1.0 mL, 8 mmol), triethylamine (1.45 mL, 10 mmol) and acetyl chloride (0.74 mL, 10 mmol) to give crude 1-[5-chloro-2-(4-nitro-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 5-chloro-2-(4-nitro-phenoxy)-benzaldehyde | 8 mmol, 2.23 g | ClC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H8ClNO4
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 8 mmol, 1.67 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 8 mmol, 2.5 M, 3.2 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 8 mmol, 1.0 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 10 mmol, 1.45 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 10 mmol, 0.74 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[5-chloro-2-(4-nitro-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1=CC=C(C=C1)[N+](=O)[O-] | C18H19ClN2O4Si
